US08426420B2
ii) [1-(2-Amino-acetyl)-piperidin-4-yl]carbamic acid butyl ester
A suspension of 287 mg [1-(2-Benzyloxycarbonylamino-acetyl)-piperidin-4-yl]-carbamic acid butyl ester and 0.1 g Pd/C (10%) in 25 ml ethanol was stirred under an atmosphere of hydrogen (3 bar) for 12 h. The mixture was filtrated over a plug of Celite, washed with ethanol and the combined wash solutions concentrated to give the title compound as colourless oil. Yield: 156 mg.

reactant | [1-(2-Benzyloxycarbonylamino-acetyl)-piperidin-4-yl]-carbamic acid butyl ester | 287 mg | C(CCC)OC(NC1CCN(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)=O | C20H29N3O5
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | [1-(2-Amino-acetyl)-piperidin-4-yl]carbamic acid butyl ester | C(CCC)OC(NC1CCN(CC1)C(CN)=O)=O | C12H23N3O3
